US07754737B2
Crude tert-butyl (S)-3-cyclopentyl-1-hydroxypropan-2-ylcarbamate from the previous step was dissolved in CH2Cl2 (30 mL). Et3N (3.2 mL, 24.3 mmol) was added and the mixture was cooled to 0° C. A solution of MsCl (1.1 g, 9.7 mmol) in CH2Cl2 (10 mL) added dropwise. After stirring for an additional 2 h, water (30 mL) was added and the mixture was extracted with CH2Cl2 (2×30 mL). The combined organic layers were washed with brine, dried over MgSO4, and evaporated to give crude tert-butyl (S)-3-cyclopentyl-1-(methanesulfonyloxy)propan-2-ylcarbamate that was used in the next step without further purification. 1H NMR (CDCl3, 400 MHz) δ 1.09 (m, 2H), 1.46 (s, 9H), 1.50 (m, 3H), 1.60 (m, 3H), 1.81 (m, 3H), 3.02 (s, 3H), 3.86 (m, 1H), 4.17 (dd, J=10, 4 Hz, 1H), 4.27 (dd, J=10, 3.2 Hz, 1H), 4.59 (brs, 1H).

reactant | tert-butyl (S)-3-cyclopentyl-1-hydroxypropan-2-ylcarbamate | C1(CCCC1)C[C@@H](CO)NC(OC(C)(C)C)=O | C13H25NO3
reactant | Et3N | 24.3 mmol, 3.2 mL | CCN(CC)CC | C6H15N
reactant | MsCl | 9.7 mmol, 1.1 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 30 mL | O | H2O
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl (S)-3-cyclopentyl-1-(methanesulfonyloxy)propan-2-ylcarbamate | C1(CCCC1)C[C@@H](COS(=O)(=O)C)NC(OC(C)(C)C)=O | C14H27NO5S
